US04945098
3-Hexadecyloxycarbonyloxy-2-methylenepropan-1-ol
2-Methylenepropane-1,3-diol (5.0 g), hexadecyloxycarbonylchloride (17.4 g) and pyridine (4.4 g) was dissolved in methylene chloride (60 ml). The mixture was stirred for 2.5 hours at 22° C. The mixture was purified through a column of silica gel 60 (70-230 mesh, 30 g), eluting with ether/chloroform 1:1. Further purification was achieved by chromatography on a Waters PrepLC®-System 500A using a PrepPAK®-500-SILICA cartridge with ether/chloroform/pentane 1:1:3 as eluent.

reactant | 2-Methylenepropane-1,3-diol | 5.0 g | C=C(CO)CO | C4H8O2
reactant | hexadecyloxycarbonylchloride | 17.4 g | C(CCCCCCCCCCCCCCC)OC(=O)Cl | C17H33ClO2
reactant | pyridine | 4.4 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-Hexadecyloxycarbonyloxy-2-methylenepropan-1-ol | C(CCCCCCCCCCCCCCC)OC(=O)OCC(CO)=C | C21H40O4
